US06391901B1
Preparation of 6-Hydroxy-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-2-[4-(3-cyanopropyloxy)phenyl]benzo[b]thiophene
By essentially following the proceedure described in Example 14, Part D, the title compound was prepared as a foam starting from 6-benzyloxy-2-(4-triisopropylsilyloxyphenyl)benzo[b]thiophene-3-yl 4-[2-(1-pyrrolidinyl)ethoxy]phenyl ketone (Part B) in quantitative yield following MPLC (SiO2; 0.5% in CHCl3 sat'd with NH4OH).

reactant | 6-benzyloxy-2-(4-triisopropylsilyloxyphenyl)benzo[b]thiophene-3-yl 4-[2-(1-pyrrolidinyl)ethoxy]phenyl ketone | N1(CCCC1)CCOC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)C=C(C=C2)OCC2=CC=CC=C2 | C43H51NO4SSi
reactant | NH4OH | [NH4+].[OH-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 6-Hydroxy-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-2-[4-(3-cyanopropyloxy)phenyl]benzo[b]thiophene | quantitative yield | OC=1C=CC2=C(SC(=C2CC2=CC=C(C=C2)OCCN2CCCC2)C2=CC=C(C=C2)OCCCC#N)C1 | C31H32N2O3S
